US09210927B2
Preparation of (E)-3,3,3-Trifluoro-N-(5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2,3-dihydro-1H-inden-1-yl)propanamide (BC4)
To a stirred solution of (E)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2,3-dihydro-1H-inden-1-amine (0.1 g, 0.23 mmol) in CH2Cl2 (10 mL) were added trifluoropropionic acid (0.044 g, 0.34 mmol), EDC.HCl (0.038 g, 0.35 mmol), HOBt.H2O (0.07 g, 0.46 mmol) and DIPEA (0.074 g, 0.57 mmol), and the reaction mixture was stirred for 16 h at 25° C. The reaction mixture was diluted with CH2Cl2 and washed with H2O. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The crude material was purified by flash column chromatography (SiO2, 15% EtOAc in petroleum ether) to afford the title compound as a liquid (65 mg, 65%): 1H NMR (400 MHz, CDCl3) δ 7.39 (s, 2H), 7.25-7.20 (m, 3H), 6.34 (d, J=16.0 Hz, 1H), 6.30 (dd, J=16.0, 8.0 Hz, 1H), 5.81 (br, 1H), 5.48 (m, 1H), 4.10 (m, 1H), 3.10 (m, 2H), 2.86-3.07 (m, 2H), 2.86 (m, 1H), 1.81 (m, 1H); ESIMS m/z 529.02 ([M+H]+); IR (thin film) 3283, 1652, 1241, 811 cm−1.

reactant | (E)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2,3-dihydro-1H-inden-1-amine | 0.23 mmol, 0.1 g | FC(C(/C=C/C=1C=C2CCC(C2=CC1)N)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C19H15Cl3F3N
reactant | trifluoropropionic acid | 0.34 mmol, 0.044 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | EDC.HCl | 0.35 mmol, 0.038 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.46 mmol, 0.07 g | O | H2O
reactant | DIPEA | 0.57 mmol, 0.074 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-3,3,3-Trifluoro-N-(5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2,3-dihydro-1H-inden-1-yl)propanamide | 65 mg, 65% | FC(CC(=O)NC1CCC2=CC(=CC=C12)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C22H16Cl3F6NO
